US06340757B1
To a solution in which 24.3 g of ethyl 4-fluoro-3-oxopentanoate had been dissolved in 330 ml of methanol were added 72.3 g of a 28 % sodium methoxide methanol solution and 15.6 g of formarnidine acetate, and the mixture was stirred at 50° C. for 3 hours. To the mixture was further added 7.81 g of formamidine acetate and after stirring the mixture at 50° C. for 4 hours, the mixture was cooled to 10° C. or lower. After cooling, 18.8 g of conc. sulfuric acid and 13.5 g of water were added to the reaction mixture. After stirring the mixture at 50° C. for 15 minutes, insolubles were removed by filtration and the filtrate was quantitated by the liquid chromatography internal standard method. As a result, 18.0 g of 6-(1-fluoroethyl)-4-pyrimidone was formed (yield: 84.6%).

reactant | sodium methoxide methanol | CO.C[O-].[Na+]
reactant | formarnidine acetate | 15.6 g | C(C)(=O)O.C(=N)N
reactant | formamidine acetate | 7.81 g | C(C)(=O)O.C(=N)N
reactant | sulfuric acid | 18.8 g | S(O)(O)(=O)=O | H2O4S
reactant | water | 13.5 g | O | H2O
reactant | ethyl 4-fluoro-3-oxopentanoate | 24.3 g | FC(C(CC(=O)OCC)=O)C | C7H11FO3
solvent | methanol | 330 ml | CO | CH4O
product | 6-(1-fluoroethyl)-4-pyrimidone | 18.0 g, yield: 84.6% | FC(C)C1=CC(NC=N1)=O | C6H7FN2O
